US06096743
To a mixture of 13.96 g of a glycine ethyl ester hydrochloride, 30 ml of THF, 10.11 g of triethylamine and 30 ml of DMF, 15.91 g of 2,4-difluoronitrobenzene was added, followed by heating under reflux for 3 hours under an argon gas stream. After cooling of the reaction mixture and dilution with ethyl acetate, the insoluble matter precipitated was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate, washed successively with water and brine, and then dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The resulting residue was recrystallized from ethanol to give 17.32 g (71.5%) of N-(2-nitro-5-fluorophenyl)glycine ethyl ester.

reactant | glycine ethyl ester hydrochloride | 13.96 g | Cl.C(C)OC(CN)=O
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 10.11 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoronitrobenzene | 15.91 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | N-(2-nitro-5-fluorophenyl)glycine ethyl ester | 17.32 g, 71.5% | C(C)OC(CNC1=C(C=CC(=C1)F)[N+](=O)[O-])=O | C10H11FN2O4
